* Enhancement-122: PAC (.pac) frequency sweep on a driven RC low-pass.
* Runs PSS (drive 1 MHz), then sweeps a small-signal input frequency and solves the
* harmonic conversion matrix at each point, emitting the 0-th-sideband node
* responses. For this linear circuit the sideband-0 response at node b equals the
* AC driving-point impedance |Z(f)| = 1/|1/R1 + j*2*pi*f*C1|.
V1 a 0 SIN(0 1 1meg)
R1 a b 1k
C1 b 0 1n
* .pac Fguess StabTime OscNode Points Harmonics SC_iter Steady_coeff <dec|oct|lin> Npts Fstart Fstop [maxsideband]
* The optional trailing integer `maxsideband` Ksb (default 0 = sideband 0 only)
* also emits the conversion sidebands b_usb<k> / b_lsb<k> (k=1..Ksb) at f +- k*f0.
.pac 1meg 1u b 1024 10 50 5u dec 10 10k 1meg
.control
run
print mag(b)
.endc
.end
