* Enhancement-117: PSS on a driven RC low-pass.
* Drive 1 MHz; the periodic steady state's fundamental must equal the analytic
* AC response |H(1MHz)| = 1/sqrt(1+(2*pi*f*R*C)^2) = 0.157136 for R=1k, C=1n.
V1 a 0 SIN(0 1 1meg)
R1 a b 1k
C1 b 0 1n
.pss 1meg 1u b 1024 10 50 5u
.control
run
print mag(b)
.endc
.end
